US07087576B2
Preparation of 5-[4-(4-(2-(2-t-Butoxycarbonylaminopropanamido)-2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione
A solution of 5-[4-(4-(2-amino-2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione hydrochloride (2.3 g, 5.27 mmol) and 2-t-butoxycarbonylaminopropionic acid (0.997 g, 5.27 mmol) in tetrahydrofuran (20 ml) was stirred for 1 h at 0° C. N,N′-Dicyclohexylcarbodiimide (1.086 g, 5.27 mmol) was added to this solution and stirring was continued for 1.5 h at ambient temperature. Water (200 ml) was added to the reaction mixture, stirred for 15 minutes, ethyl acetate (250 ml) was added and stirring was continued for another 15 minutes. The organic layer was separated and washed with water (100 ml), dried over anhydrous sodium sulfate and concentrated to give the title compound, which was purified by column chromatography (0.7 g, yield 23%).

reactant | 5-[4-(4-(2-amino-2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione hydrochloride | 5.27 mmol, 2.3 g | Cl.NC(CC1=CC=C(OC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C=C1)C(=O)OC
reactant | 2-t-butoxycarbonylaminopropionic acid | 5.27 mmol, 0.997 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C | C8H15NO4
reactant | N,N′-Dicyclohexylcarbodiimide | 5.27 mmol, 1.086 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Water | 200 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 5-[4-(4-(2-(2-t-Butoxycarbonylaminopropanamido)-2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione | yield 23% | C(C)(C)(C)OC(=O)NC(C(=O)NC(CC1=CC=C(OC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C=C1)C(=O)OC)C | C28H33N3O8S
